2112-05-22 01:25:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   - Pt received 2 units of pRBC, which was stopped prematurely during the
   2^nd unit for question of transfusion reaction. Evening Hct reflected
   an appropriate bump.
   - Maintained on 100% NRB overnight
   - Breathing improved this AM pt. Continues to have dry cough,  unable
   to bring up sputum.
   - Able to wean down to 100% high flow mask.
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Cardura (Oral) (Doxazosin Mesylate)
   urinary inconti
   Codeine
   Nausea/Vomiting
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-5-21**] 08:14 PM
   Cefipime - [**2112-5-21**] 09:14 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2112-5-22**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-22**] 01:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.6
C (97.9
   HR: 73 (65 - 81) bpm
   BP: 73/48(51) {73/41(51) - 146/84(88)} mmHg
   RR: 30 (17 - 38) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    825 mL
                                                                     13 mL
   PO:
                                                                    270 mL
             TF:
   IVF:
                                                                    288 mL
                                                                     13 mL
   Blood products:
                                                                    267 mL
   Total out:
                                                                    300 mL
                                                                    225 mL
   Urine:
                                                                    300 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    525 mL
                                                                   -213 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 93%
   ABG: ////
   Physical Examination
   General: Pleasant elderly woman appearing comfortable sitting up in
   chair, speaking in full sentences
   HEENT: Sclera anicteric, pale conjunctiva
   Neck: No JVD
   Pulm: Coarse inspiratory crackles at bilateral bases with R lung field
   egophony.
   CV: Regular S1 S2 no m/r/g
   Abd: Soft nontender +bowel sounds
   Extrem: Warm no edema palpable distal pulses
   Neuro: Awake and alert
   Labs / Radiology
   261
   8
   127
   2.2
   20
   3.8
   38
   104
   137
   23.8 %
   16.6
        [image002.jpg]
                             [**2112-5-21**]  09:30 PM
   Hct
   23.8
   Other labs: PT / PTT / INR:13.8/25.8/1.2
   U/A #1 neg nit/leuk, 300 prot, 45 RBC, 13 WBC, few bact, 2 epi. FENa
   1.2. Prot/Cr 5.2
   U/A #2 sm leuk/neg nit, 100 prot, 95 RBC, 52 WBC, few back, 1 gran
   cast, 30 hyal casts, 5 RBC casts, 3 Br casts
   Iron: 12, calTIBC: 196, Hapto: 321, Ferritn: 365, TRF: 151, PEP: Pnd,
   IgG: 1339, IgA: 120, IgM: 435
   Blood & urine cx pending, legionella Ag neg
   Assessment and Plan
   This 79F with h/o DM, MGUS, and ILD presents with progressive DOE in
   setting of large right sided infiltrate continuing to evolve on CXR.
   1. Hypoxemic respiratory failure
   Pt with large right sided infiltrate with progression of opacities to
   include left lung as well on progressive CXRs despite tx with
   ceftriaxone and azithromycin. Ddx includes resistant/not-covered
   organism (MRSA, pseudomonas, nocardia, PCP, [**Name Initial (NameIs) 72**]; viral less likely)
   v. slow-responding PNA. No clinical history to suggest a new aspiration
   event. Pt with no unusual exposures but may have some immunosuppression
   [**2-15**] likely multiple myeloma, diabetes. Given the Hct drop would also
   consider pulmonary hemorrhage, especially given finding of ARF with RBC
   casts in U/A today. Other non-infectious possibilities for respiratory
   decompensation including interstitial lung disease acceleration, PE,
   mucous plugging, pulmonary edema (?in setting of blood transfusion
   although time course may be off). Plasmacytoma unlikely. CXR without
   evidence for worsening effusions or pneumothorax.
   - Cont cefepime and vancomycin for expanded coverage and azithro for
   atypical coverage pending further data. Although pt may not be
   immunosuppressed enough to place her at risk for PCP, [**Name10 (NameIs) **] [**Name11 (NameIs) **], would
   empirically start tx w/ bactrim and steroids
   - Chest CT to further characterize R infiltrate. Pt has known R sided
   pulmonary nodule which was increased in size last chest CT [**2112**]8.
   - Obtain sputum for gram stain and culture
 may need induced specimen,
   repeat blood cultures if febrile
   - Immunoglobulin levels within normal limits therefore IVIG probably
   not helpful.
   - Wean facemask as tolerated
   2. Anemia
   Hct drop overnight might be due to fluid resuscitation. Pt does have
   history of gastritis on [**7-19**] EGD so GIB (or pulmonary, as above)
   possible.  Also concern for pulm hemorrhage as above. However, Hct has
   stayed stable after transfusion. Progressive anemia since the fall may
   be due to progression to multiple myeloma or [**2-15**] renal insufficiency.
   Hemolysis unlikely given nl Tbili. B12 and folate WNL [**10-20**].
   - PPI [**Hospital1 7**]
   - Guaiac stools
   - Active type and screen, maintain PIV x 2, follow Hct q8, transfuse
   Hb<8
   3. MGUS with ?progression to myeloma
   Heme evaluation had been planned as an outpatient.
   - Followup SPEP and UPEP and consider skeletal survey pending PEPs
   - Consult heme today
   4. Acute on chronic renal failure
   Cr has doubled since [**10-20**]. FENa not specific for pre-renal or
   intrinsic renal etiology. U/A concerning for glomerulonephritis given
   RBC and protein. [**Month (only) 51**] be due to myeloma (light chain dz, amyloid, etc).
   Glomerulonephritis also concerning for vasculitides such as Wegener
   and Goodpasture
s given presence of pulm hemorrhage on differential of
   resp [**Month (only) **]. HTN and DM appear to be well controlled so progressive
   renal disease due to these seems less likely.
   - Renal and Heme consults; may need biopsy
   - F/u SPEP/UPEP; renal U/S; check ANCAs, anti-GBM, hepatitis panel
   - Hold [**Last Name (un) **], renally dose meds prn
   - Follow urine output
   5. DM
   - Following fingersticks QACHS, insulin sliding scale goal <150
   6. CAD
   - Continue ASA, statin
   - Change atenolol to metoprolol given renal insufficiency
   7. HTN
   Currently well controlled.
   - Cont home CCB. Atenolol changed to metoprolol.
   - Holding [**Last Name (un) **] as above
   8. Hypothyroid
   Continuing home dose levothyroxine.
   ICU Care
   Nutrition: sips
   Glycemic Control:  HISS
   Lines:
   20 Gauge - [**2112-5-21**] 06:48 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:  HOB elevation for aspiration precaution
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU today pending improvement in respiratory status

2112-05-22 09:58:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia/Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yr old with DM, MGUS and IPF
   Adm with fatigue/malaise. Tx for right lung pna with CFTX/Azithro.
   On floor, sats maintained on NC. Had 1 unit PRBC on [**5-20**].
   Yesterday transferred to [**Hospital Unit Name 1**] for progressive resp distress and
   increased O2 requirements.
   24 Hour Events:
 NASAL SWAB - At [**2112-5-21**] 04:32 PM
   1 L negative since [**27**]:00
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Cardura (Oral) (Doxazosin Mesylate)
   urinary inconti
   Codeine
   Nausea/Vomiting
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-5-21**] 08:14 PM
   Cefipime - [**2112-5-21**] 09:14 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2112-5-22**] 12:30 AM
   Other medications:
   Lopressor, Cefepime, Vanc IV, Azithro, RISS, synthroid, nifedipine,
   PPI, pravastatin, ASA, TUMS
   Changes to medical and family history:
   Reviewed
   ILD
[**12-20**]
FEV1/FVC suggesting mild restrictive ventilatory defect with
   significant decrease in DLCO.  Possible NSIP
   MGUS with current w/u for possible MM
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-22**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.8
C (100
   HR: 85 (65 - 85) bpm
   BP: 123/105(110) {73/41(51) - 146/105(120)} mmHg
   RR: 23 (17 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    825 mL
                                                                     94 mL
   PO:
                                                                    270 mL
             TF:
   IVF:
                                                                    288 mL
                                                                     94 mL
   Blood products:
                                                                    267 mL
   Total out:
                                                                    300 mL
                                                                  1,045 mL
   Urine:
                                                                    300 mL
                                                                  1,045 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    525 mL
                                                                   -951 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 94% on HFM
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : diffuse bilateral)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): all spheres, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.0 g/dL
   261 K/uL
   127 mg/dL
   2.2 mg/dL
   20 mEq/L
   3.8 mEq/L
   38 mg/dL
   104 mEq/L
   137 mEq/L
   23.8 %
   16.6 K/uL
        [image002.jpg]
                             [**2112-5-21**]  09:30 PM
                             [**2112-5-22**]  05:06 AM
                             [**2112-5-22**]  06:41 AM
   WBC
   16.6
   Hct
   23.8
   23.8
   Plt
   261
   Cr
   2.2
   Glucose
   127
   Other labs: PT / PTT / INR:13.8/25.8/1.2
   Fluid analysis / Other labs: Cr-2.2 ncreased from 1.0.
   U/a noted - nephrotic range proteinuria
   Imaging: CXR-diffuse right sided infiltrates and over past 24 hours has
   evolved increased LLL consolidation and persistence without change in
   right sided opacites
   Assessment and Plan
 HYPOXEMIA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANEMIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ACTIVITY INTOLERANCE
   79 yo female with baseline impairment in DLCO in the setting of current
   working diagnosis of NSIP who has progression of dyspnea and now with
   evolution of diffuse pulmonary infiltrates in right lung with areas of
   consolidation.  She has had progression during admission of hypoxemia.
   This may represent an evolution of further areas of consolidation and
   or atelectasis in the setting of multi-lobar PNA.  Alternatively this
   may represent progression of resistant bacteria or alternatively viral
   PNA (ie. VZV) progressing in the setting of severe multilobar insult.
   Alternatively we must consider possible insult such as accelerated
   process of interstitial lung disease or AIP must be considered.
   Pulmonary hemorrhage can be seen in this setting but again would not
   explain complete picture.
   1)Acute resp failure
   -Continue with NRB mask and consider high flow oxygen
   -Will need to continue with deep breath/cough/ OOB to maintain aeration
   -Discussed with patient possibility and indeed risk for progression to
   intubation which she would want
   -No evidence of PE or obvious CHF but objectively seems to be improving
   post 1 L negative overnight.
   2)Pneumonia-
   -Vanco/Cefepime/Azithro
   - Will have to consider BAL if intubated but not stable for now
   - Sputum GS C+S if obtained
   - not covering PCP, [**Name10 (NameIs) 7462**] or fungal infection at this time.
   - will consider pulm-renal syndrome, check ANCA and anti-GBM
   - non contrast CT chest today if can lay flat
   3) Acute Renal Failure-
   -neprhotic range proteinuria and rbc casts
   -Urine Lytes
   -renal ultrasound
   -SPEP/UPEP pending. [**Month (only) 51**] need BM bx
   4) Anemia
   -consider DAH but less likely, hemolysis less likely with normal Tbili
   - ferritin 365, B12/folate normal.
   -transfuse prn, goal ~23-27
   Other issues per resident
s note.
   Critical Care Time-45 minutes
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2112-5-21**] 06:48 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2112-05-23 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2112-5-22**] 03:05 PM
 INVASIVE VENTILATION - START [**2112-5-23**] 12:40 AM
 SPUTUM CULTURE - At [**2112-5-23**] 01:30 AM
 ARTERIAL LINE - START [**2112-5-23**] 03:21 AM
 BAL FLUID CULTURE - At [**2112-5-23**] 04:14 AM
   mini-bal
   -On NRB for most of day
   -ABG on NRB: 7.42/34/67
   -Chest CT: wet read: worsening ILD, possible PNA in correct clinical
   setting.  Our read: diffuse b/l PNA
   -Family in to discuss Intubation --> decided to intubate
   -A-line placed
   -Hypotensive --> given fluids
   -Sedated with propofol, but agitated to give boluses of versed.
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Cardura (Oral) (Doxazosin Mesylate)
   urinary inconti
   Codeine
   Nausea/Vomiting
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-5-21**] 08:14 PM
   Cefipime - [**2112-5-21**] 09:14 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-23**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.1
C (98.8
   HR: 68 (62 - 86) bpm
   BP: 136/94(111) {93/37(55) - 136/94(111)} mmHg
   RR: 23 (16 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    530 mL
                                                                  1,168 mL
   PO:
                                                                    290 mL
             TF:
   IVF:
                                                                    240 mL
                                                                  1,168 mL
   Blood products:
   Total out:
                                                                  1,617 mL
                                                                    180 mL
   Urine:
                                                                  1,617 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,087 mL
                                                                    988 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 5
   PEEP: 16 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 20 cmH2O
   SpO2: 93%
   ABG: 7.32/39/66/19/-5
   Ve: 11.5 L/min
   PaO2 / FiO2: 83
   Physical Examination
   General: Pleasant elderly woman appearing comfortable sitting up in
   chair, speaking in full sentences
   HEENT: Sclera anicteric, pale conjunctiva
   Neck: No JVD
   Pulm: Coarse inspiratory crackles at bilateral bases with R lung field
   egophony.
   CV: Regular S1 S2 no m/r/g
   Abd: Soft nontender +bowel sounds
   Extrem: Warm no edema palpable distal pulses
   Neuro: Awake and alert
   Labs / Radiology
   257 K/uL
   6.8 g/dL
   129 mg/dL
   2.4 mg/dL
   19 mEq/L
   5.6 mEq/L
   46 mg/dL
   107 mEq/L
   136 mEq/L
   20.0 %
   14.7 K/uL
        [image002.jpg]
                             [**2112-5-21**]  09:30 PM
                             [**2112-5-22**]  05:06 AM
                             [**2112-5-22**]  06:41 AM
                             [**2112-5-22**]  06:50 PM
                             [**2112-5-22**]  07:03 PM
                             [**2112-5-23**]  02:12 AM
                             [**2112-5-23**]  02:37 AM
                             [**2112-5-23**]  05:39 AM
   WBC
   16.6
   14.7
   Hct
   23.8
   23.8
   22.4
   20.0
   Plt
   261
   257
   Cr
   2.2
   2.4
   TCO2
   23
   21
   21
   Glucose
   127
   129
   Other labs: PT / PTT / INR:13.8/25.8/1.2, Differential-Neuts:89.5 %,
   Lymph:5.2 %, Mono:3.9 %, Eos:1.2 %, Albumin:3.1 g/dL, Ca++:7.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
 HYPOXEMIA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANEMIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ACTIVITY INTOLERANCE
   This 79F with h/o DM, MGUS, and ILD presents with progressive DOE in
   setting of large right sided infiltrate continuing to evolve on CXR.
   1. Hypoxemic respiratory failure
   Pt with large right sided infiltrate with progression of opacities to
   include left lung as well on progressive CXRs despite tx with
   ceftriaxone and azithromycin. Ddx includes resistant/not-covered
   organism (MRSA, pseudomonas, nocardia, PCP, [**Name Initial (NameIs) 72**]; viral less likely)
   v. slow-responding PNA. No clinical history to suggest a new aspiration
   event. Pt with no unusual exposures but may have some immunosuppression
   [**2-15**] likely multiple myeloma, diabetes. Given the Hct drop would also
   consider pulmonary hemorrhage, especially given finding of ARF with RBC
   casts in U/A today. Other non-infectious possibilities for respiratory
   decompensation including interstitial lung disease acceleration, PE,
   mucous plugging, pulmonary edema (?in setting of blood transfusion
   although time course may be off). Plasmacytoma unlikely. CXR without
   evidence for worsening effusions or pneumothorax.
   - Cont cefepime and vancomycin for expanded coverage and azithro for
   atypical coverage pending further data. Although pt may not be
   immunosuppressed enough to place her at risk for PCP, [**Name10 (NameIs) **] [**Name11 (NameIs) **], would
   empirically start tx w/ bactrim and steroids
   - Chest CT to further characterize R infiltrate. Pt has known R sided
   pulmonary nodule which was increased in size last chest CT [**2112**]8.
   - Obtain sputum for gram stain and culture
 may need induced specimen,
   repeat blood cultures if febrile
   - Immunoglobulin levels within normal limits therefore IVIG probably
   not helpful.
   - Wean facemask as tolerated
   2. Anemia
   Hct drop overnight might be due to fluid resuscitation. Pt does have
   history of gastritis on [**7-19**] EGD so GIB (or pulmonary, as above)
   possible.  Also concern for pulm hemorrhage as above. However, Hct has
   stayed stable after transfusion. Progressive anemia since the fall may
   be due to progression to multiple myeloma or [**2-15**] renal insufficiency.
   Hemolysis unlikely given nl Tbili. B12 and folate WNL [**10-20**].
   - PPI [**Hospital1 7**]
   - Guaiac stools
   - Active type and screen, maintain PIV x 2, follow Hct q8, transfuse
   Hb<8
   3. MGUS with ?progression to myeloma
   Heme evaluation had been planned as an outpatient.
   - Followup SPEP and UPEP and consider skeletal survey pending PEPs
   - Consult heme today
   4. Acute on chronic renal failure
   Cr has doubled since [**10-20**]. FENa not specific for pre-renal or
   intrinsic renal etiology. U/A concerning for glomerulonephritis given
   RBC and protein. [**Month (only) 51**] be due to myeloma (light chain dz, amyloid, etc).
   Glomerulonephritis also concerning for vasculitides such as Wegener
   and Goodpasture
s given presence of pulm hemorrhage on differential of
   resp [**Month (only) **]. HTN and DM appear to be well controlled so progressive
   renal disease due to these seems less likely.
   - Renal and Heme consults; may need biopsy
   - F/u SPEP/UPEP; renal U/S; check ANCAs, anti-GBM, hepatitis panel
   - Hold [**Last Name (un) **], renally dose meds prn
   - Follow urine output
   5. DM
   - Following fingersticks QACHS, insulin sliding scale goal <150
   6. CAD
   - Continue ASA, statin
   - Change atenolol to metoprolol given renal insufficiency
   7. HTN
   Currently well controlled.
   - Cont home CCB. Atenolol changed to metoprolol.
   - Holding [**Last Name (un) **] as above
   8. Hypothyroid
   Continuing home dose levothyroxine.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-5-23**] 03:21 AM
   20 Gauge - [**2112-5-23**] 04:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2112-05-23 10:18:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo F with MGUS, ILD, DM, admitted with worseing dyspnea, lung
   infiltrates
   24 Hour Events:
 BLOOD CULTURED - At [**2112-5-22**] 03:05 PM
 INVASIVE VENTILATION - START [**2112-5-23**] 12:40 AM
 SPUTUM CULTURE - At [**2112-5-23**] 01:30 AM
 ARTERIAL LINE - START [**2112-5-23**] 03:21 AM
 BAL FLUID CULTURE - At [**2112-5-23**] 04:14 AM
   mini-bal
   Intubates yesterday
   hypotension--responded to IVF
   History obtained from Medical records, ho
   Patient unable to provide history: Sedated
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Cardura (Oral) (Doxazosin Mesylate)
   urinary inconti
   Codeine
   Nausea/Vomiting
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-5-21**] 08:14 PM
   Cefipime - [**2112-5-21**] 09:14 PM
   Azithromycin - [**2112-5-23**] 08:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-23**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.1
C (97
   HR: 62 (62 - 86) bpm
   BP: 121/49(72) {93/37(55) - 136/94(111)} mmHg
   RR: 20 (16 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    530 mL
                                                                  1,220 mL
   PO:
                                                                    290 mL
             TF:
   IVF:
                                                                    240 mL
                                                                  1,220 mL
   Blood products:
   Total out:
                                                                  1,617 mL
                                                                    240 mL
   Urine:
                                                                  1,617 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,087 mL
                                                                    980 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 3
   PEEP: 16 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 26 cmH2O
   SpO2: 95%
   ABG: 7.33/39/76.[**Numeric Identifier 126**]/19/-4
   Ve: 9 L/min
   PaO2 / FiO2: 95
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : scant r upper zones, Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   6.8 g/dL
   257 K/uL
   129 mg/dL
   2.4 mg/dL
   19 mEq/L
   3.5 mEq/L
   46 mg/dL
   107 mEq/L
   136 mEq/L
   20.0 %
   14.7 K/uL
        [image002.jpg]
                             [**2112-5-21**]  09:30 PM
                             [**2112-5-22**]  05:06 AM
                             [**2112-5-22**]  06:41 AM
                             [**2112-5-22**]  06:50 PM
                             [**2112-5-22**]  07:03 PM
                             [**2112-5-23**]  02:12 AM
                             [**2112-5-23**]  02:37 AM
                             [**2112-5-23**]  05:39 AM
                             [**2112-5-23**]  07:33 AM
   WBC
   16.6
   14.7
   Hct
   23.8
   23.8
   22.4
   20.0
   Plt
   261
   257
   Cr
   2.2
   2.4
   TCO2
   23
   21
   21
   21
   Glucose
   127
   129
   Other labs: PT / PTT / INR:13.8/25.8/1.2, Differential-Neuts:89.5 %,
   Lymph:5.2 %, Mono:3.9 %, Eos:1.2 %, Lactic Acid:0.7 mmol/L, Albumin:3.1
   g/dL, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:6.4 mg/dL
   Fluid analysis / Other labs: crp > 300
   esr 150
   spep/upep pending
   Imaging: diffuse infiltrate R > L with sparing of L apex, et high
   Microbiology: mini bal--4+ pmn, no micro
   legionella ag neg
   bl ngtd
   Assessment and Plan
 HYPOXEMIA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANEMIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ACTIVITY INTOLERANCE
    79 yo female with baseline impairment in DLCO in the setting of
   current working diagnosis of NSIP who has progression of dyspnea and
   now with evolution of diffuse pulmonary infiltrates b/l R > L with
   areas of consolidation with worsenign hypoemia and distress requiring
   intubation.
   Resp picture is very concerning for progressive bacterial pna, viral,
   PCP or even fungal pciture in immunosupressed host (MGUS) .
   Alternatively, concern for acute  This may represent an evolution of
   further areas of consolidation and or atelectasis in the setting of
   multi-lobar PNA.  Alternatively this may represent progression of
   resistant bacteria or alternatively viral PNA (ie. VZV) progressing in
   the setting of severe multilobar insult fungal possible, .
   Alternatively we must consider possible insult such as accelerated
   process of interstitial lung disease or AIP must be considered.
   Pulmonary hemorrhage can be seen in this setting but again would not
   explain complete picture.
   1)Acute resp failure/ards
   continue current vent support--ards net volume
   MDIs
   will attempot bronch for dfa, cxs and cell count (eo as AEP is in ddx)
   No evidence of PE , CHF apprears less likely (recent echo)
   2)Pneumonia/lung infiltrates
   -Vanco/Cefepime/Azithro--continue
   f/u b d glucan, galactomanin, cx's
   - attempt bronch with BAL, ldh mildly elevated
   - Sputum GS C+S if obtained
   - not covering PCP, [**Name10 (NameIs) 7462**] or fungal infection at this time--post
   bronch will empierically cover for PCP
   [**Name Initial (PRE) **] will consider pulm-renal syndrome--check ANCA and anti-GBM, [**Doctor First Name **],
   assess for alveolar hem with bronch through without sig bloody
   secretions from ET sx
   3) Acute Renal Failure-pulm renal syndrome remains on ddx,amyloid,
   MM--heme feels this is less liekly--appears intrarenal in nature--
   Renal following
   SPEP/UPEP pending
   Will need renal bx and BM bx (heme following)
   renal dose meds
   4) Anemia
   -consider DAH but less likely, hemolysis appears less likely--contionue
   to follow
   - ferritin 365, B12/folate normal.
   -transfuse today, keep t and screen
   Other issues per resident
s note.
   ICU Care
   Nutrition:
   Comments: will start TFs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2112-5-23**] 03:21 AM
   20 Gauge - [**2112-5-23**] 04:03 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2112-05-24 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2112-5-23**] 06:22 PM
   [**5-23**]
   -Renal following, recommended UPEP and albumin-to-creatinine ratio
   -Heme following, recommend treatment of acute pulmonary issues prior to
   consideration of bone marrow biopsy
   -Weaning FiO2, now down to 80%, but requiring high PEEPs 16-18
   -Could not get PICC placed today; will need IR-guided [**5-24**]
   -mini-BAL apparently not done today for PCP
   [**Name9 (PRE) 7510**] starting empiric therapy for PCP, [**Name10 (NameIs) **] patient has Bactrim
   allergy documented
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Cardura (Oral) (Doxazosin Mesylate)
   urinary inconti
   Codeine
   Nausea/Vomiting
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2112-5-23**] 08:00 AM
   Cefipime - [**2112-5-23**] 08:17 PM
   Vancomycin - [**2112-5-23**] 09:35 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2112-5-23**] 08:16 PM
   Heparin Sodium (Prophylaxis) - [**2112-5-23**] 11:14 PM
   Midazolam (Versed) - [**2112-5-24**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-24**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 80 (62 - 85) bpm
   BP: 148/57(88) {108/49(72) - 148/108(120)} mmHg
   RR: 20 (17 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,322 mL
                                                                    354 mL
   PO:
             TF:
                                                                     95 mL
                                                                    206 mL
   IVF:
                                                                  1,877 mL
                                                                    148 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    890 mL
                                                                    479 mL
   Urine:
                                                                    890 mL
                                                                    479 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,432 mL
                                                                   -125 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 95%
   ABG: 7.30/41/108/20/-5
   Ve: 9.9 L/min
   PaO2 / FiO2: 154
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   253 K/uL
   7.3 g/dL
   121 mg/dL
   2.3 mg/dL
   20 mEq/L
   4.3 mEq/L
   59 mg/dL
   107 mEq/L
   137 mEq/L
   21.9 %
   13.4 K/uL
        [image002.jpg]
                             [**2112-5-22**]  07:03 PM
                             [**2112-5-23**]  02:12 AM
                             [**2112-5-23**]  02:37 AM
                             [**2112-5-23**]  05:39 AM
                             [**2112-5-23**]  07:33 AM
                             [**2112-5-23**]  05:23 PM
                             [**2112-5-23**]  05:27 PM
                             [**2112-5-23**]  05:47 PM
                             [**2112-5-23**]  11:13 PM
                             [**2112-5-24**]  04:03 AM
   WBC
   14.7
   13.4
   Hct
   20.0
   22.5
   21.9
   Plt
   257
   253
   Cr
   2.4
   2.3
   2.3
   TCO2
   23
   21
   21
   21
   21
   21
   Glucose
   129
   113
   121
   Other labs: PT / PTT / INR:13.8/25.8/1.2, Differential-Neuts:89.5 %,
   Lymph:5.2 %, Mono:3.9 %, Eos:1.2 %, Lactic Acid:0.7 mmol/L, Albumin:3.1
   g/dL, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.3 mg/dL
   [**Year (4 digits) 6452**]: GRAM STAIN (Final [**2112-5-23**]):
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
      LEGIONELLA CULTURE (Preliminary):
      POTASSIUM HYDROXIDE PREPARATION (Final [**2112-5-23**]):
         TEST CANCELLED, PATIENT CREDITED.
         This is a low yield procedure based on our in-house studies if
         pulmonary Histoplasmosis, Coccidioidomycosis, Blastomycosis,
         Aspergillosis or Mucormycosis is strongly suspected, contact the
         [**Name2 (NI) 6452**] Laboratory (7-2306).
      Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
         [**2112-5-23**]):    NEGATIVE for Pneumocystis jirovecii (carinii)..
      FUNGAL CULTURE (Preliminary):
      ACID FAST SMEAR (Preliminary):
      ACID FAST CULTURE (Preliminary):
   ================
   Respiratory viral antigens not detected.
         SPECIMEN SCREENED FOR: ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B
   AND
         RSV.
   ================
   BCx [**Date range (1) 7511**] negative
   Assessment and Plan
 HYPOXEMIA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANEMIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ACTIVITY INTOLERANCE
   This 79F with h/o DM, MGUS, and ILD presents with progressive DOE in
   setting of large right sided infiltrate continuing to evolve on CXR.
   1. Hypoxemic respiratory failure:  R-sided infiltrate and diffuse
   opacities.  Meets criteria for ARDS.  Differential for etiology
   includes worsening of underlying ILD, eosinophilic PNA, diffuse
   alveolar hemorrhage, infectious cause.  Pulmonary-renal vasculitic
   syndrome is also possible.  TRALI unlikely given time course.  She is
   not on immunosuppressive drugs at home but is likely immunosuppressed
   secondary to her diabetes, MGUS, putting her at risk for fungal
   etiology.   Bronch was insufficient for PCP analysis as well as for
   eosinophil count.
   - broncoscopy vs repeat mini-BAL for PCP [**Name Initial (PRE) **] ? eosinophils, will also
   check for blood for DAH
   - continue cefepime and vancomycin for broad coverage as well as
   azithromycin for atypicals
   - f/u culture data
   - f/u beta glucan/galactomannan
   - after broncoscopy, would consider empiric treatment with Bactrim and
   steroids for possible PCP and to cover for nocardia as well.
   - increase PEEP as needed to improve oxygenation and maintain PaO2 >60%
   - MDI PRN
   - f/u labs for possible pulmonary-renal syndrome, including ANCA,
   anti-GBM
   2. Anemia:  Hct bumped appropriately with transfusion 2 days ago.  B12
   and folate have been recently normal.  Cause is likely [**2-15**] ESRD.
   Hematology following and thinks multiple myeloma is less likely.
   Hemolysis labs have been previously normal.  Also there is some concern
   for pulmonary hemmorhage as above.  She does have a history of
   gastritis but GI bleed is unlikely.
   - continue [**Hospital1 7**] PPI
   - guaiac stools
   - transfuse 1 unit today
   3. MGUS:  Appreciate  hematology input.  Multiple myeloma less likely.
   - will likely need bone marrow biopsy in the future but can not
   tolerate positioning currently, will defer until acute issues are
   resolved
   - f/u SPEP and UPEP
   4. Acute on chronic renal failure:  Nephrotic range proteinuria.
   Differential includes myeloma (light chain deposition or amyloid) or
   pulmonary-vascular vasculitis such as Wegener
s/Goodpastures.
   Hepatitis panel was negative.
   - r/u renal recs
   - r/u SPEP/UPEP
   - f/u ANCA, anti-GBM
   - follow urine output
   - vanc trough after 3^rd dose
   5. DM
   - Following fingersticks QACHS, insulin sliding scale goal <150
   6. CAD
   - Continue ASA, statin, beta blocker
   - holding [**Last Name (un) **] given ARF
   7. HTN:  currently well controlled.
   - continueCCB and BB
   - holding [**Last Name (un) **] as above
   8. Hypothyroid
   - continue home dose levothyroxine.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2112-5-24**] 05:42 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-5-23**] 03:21 AM
   20 Gauge - [**2112-5-23**] 04:03 AM
   Midline - [**2112-5-23**] 06:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2112-05-24 13:24:00 Physician Attending Progress Note
Chief Complaint: resp failure, ards, arf
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   79 yo F with MGUS, ILD (with baseline impairment in DLCO in the setting
   of current working diagnosis of NSIP), DM, admitted with worsening
   dyspnea, diffuse pulm infiltrates, progressive resp failure requiring
   intubation and arf.
   24 Hour Events:
 MIDLINE - START [**2112-5-23**] 06:22 PM
   FIO2 weaned to 70%
   History obtained from Medical records, ho
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Cardura (Oral) (Doxazosin Mesylate)
   urinary inconti
   Codeine
   Nausea/Vomiting
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2112-5-23**] 08:17 PM
   Vancomycin - [**2112-5-23**] 09:35 PM
   Azithromycin - [**2112-5-24**] 08:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2112-5-24**] 04:00 AM
   Lansoprazole (Prevacid) - [**2112-5-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2112-5-24**] 08:00 AM
   Other medications:
   reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-24**] 01:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.5
C (99.5
   HR: 82 (70 - 87) bpm
   BP: 149/57(88) {108/45(73) - 149/101(114)} mmHg
   RR: 18 (17 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,322 mL
                                                                    638 mL
   PO:
             TF:
                                                                     95 mL
                                                                    376 mL
   IVF:
                                                                  1,877 mL
                                                                    262 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    890 mL
                                                                    719 mL
   Urine:
                                                                    890 mL
                                                                    719 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,432 mL
                                                                    -81 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 96%
   ABG: 7.30/41/108/20/-5
   Ve: 10.8 L/min
   PaO2 / FiO2: 154
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.3 g/dL
   253 K/uL
   121 mg/dL
   2.3 mg/dL
   20 mEq/L
   4.3 mEq/L
   59 mg/dL
   107 mEq/L
   137 mEq/L
   21.9 %
   13.4 K/uL
        [image002.jpg]
                             [**2112-5-22**]  07:03 PM
                             [**2112-5-23**]  02:12 AM
                             [**2112-5-23**]  02:37 AM
                             [**2112-5-23**]  05:39 AM
                             [**2112-5-23**]  07:33 AM
                             [**2112-5-23**]  05:23 PM
                             [**2112-5-23**]  05:27 PM
                             [**2112-5-23**]  05:47 PM
                             [**2112-5-23**]  11:13 PM
                             [**2112-5-24**]  04:03 AM
   WBC
   14.7
   13.4
   Hct
   20.0
   22.5
   21.9
   Plt
   257
   253
   Cr
   2.4
   2.3
   2.3
   TCO2
   23
   21
   21
   21
   21
   21
   Glucose
   129
   113
   121
   Other labs: PT / PTT / INR:13.8/25.8/1.2, Differential-Neuts:89.5 %,
   Lymph:5.2 %, Mono:3.9 %, Eos:1.2 %, Lactic Acid:0.7 mmol/L, Albumin:3.1
   g/dL, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.3 mg/dL
   Fluid analysis / Other labs: p-anca presumptively pos await
   confirmation
   Imaging: f/u cxr from am (not online)
   pm cxr [**5-23**]--underpen--b/l diffuse asd r > l
   Microbiology: mini bal--dafa pcp neg
   resp cx, lg, fungal, afb pending
   viral panel neg
   bl [**2114-5-20**] pending
   Assessment and Plan
 HYPOXEMIA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANEMIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ACTIVITY INTOLERANCE
   79 yo F with MGUS, ILD (with baseline impairment in DLCO in the setting
   of current working diagnosis of NSIP), DM, admitted with worsening
   dyspnea, diffuse pulm infiltrates, progressive resp failure requiring
   intubation and arf
   Resp picture is concerning for infectious insult on underlying ild with
   poor reserve  Bacterial pna,  Viral, PCP or even fungal infection is on
   ddx given some immunosupression (from MGUS) .  Alternatively, with this
   type of diffuse infiltrate b/l must consider possiblilty of accelerated
   process of interstitial lung disease or AIP or AEP.  DAH or pul;m/renal
   syndrome remains possibility (in light of anemia) though without bloody
   secretions from ETT appears far less likely. Now making some progress
   in terms of improving oxygenation.
   Active issues include:
   #  Acute resp failure
   # ARDS by p/f ratio
   # pna/diffuse infiltrates
   --continue vent support--ards net low tidal volumes
   --wean FiO2 for pao2 > 60
   --repeat mini BAL to eval cell counts for eos though with progress in
   oxygenation appears less likely
   --continue broad coverage with Vanco/Cefepime/Azithro
   -- f/u b d glucan, galactomanin, pending cx's
   # Acute Renal Failure-pulm renal syndrome remains on ddx, amyloid, MM
   tranformation
   --Renal following
   --f/u labs --SPEP/UPEP
   --Renal bx and BM bx (heme following) when stable for procedures
   --renally dose meds
   -- Rheum c/s given presumptive p-anca positivity regarding additional
   w/u or initiation of steroids for possible vasculitis
   #  Anemia
   --transfuse to maintain hct > 21, keep t and screen
   ? related to renal decline, continue to monitor for hemolysis
   #htn
titrate lopressor
   Other issues as per resident
s note.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2112-5-24**] 05:42 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-5-23**] 03:21 AM
   20 Gauge - [**2112-5-23**] 04:03 AM
   Midline - [**2112-5-23**] 06:22 PM
   Comments: to get IR placed picc
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   ------ Protected Section ------
   Pt  remains tenuous from resp standpoint.  Have made slow progress in
   terms of oxygenation which is promising though is very peep dependent,
   with desats/decrease in pao2 after movement suggesting sig v/q
   mismatch.  Despite overall increase in pao2 have been limited in
   ability to wean fio2 down below 70%.  Esophageal balloon is now in
   place to further guide peep.   Remains too unstable from resp
   standpoint to tolerate bronch.
   To date there is no clear evidence to support infectious etiology with
   mini BAL results neg/ngtd.  Remains empirically covered with broad spec
   antibx.   No evidence of DAH, although unable to conduct serial BAL, or
   AEP by mini BAL cell ct.
   Given respiratory picture with resp failure/diffuse pulm
   infiltrates/ards and no clear infection concern for AIP remains of high
   concern.  Also remaining in ddx is the possibility of a vasculitis or a
   pulm/renal syndrome given ARF and extremely elevated esr/crp and prelim
   p-anca positivity.  Cr does appears to have stabilized and no RBC casts
   seen on initial u/a.
   Will continue to support aggressively.  F/u rheum labs and recs.
   Strongly considering initiation pulse steroids for possible
   exacerbation of of ILD.  Will also obtain sinus CT and reimage chest to
   assess for any change in pulm process.
   Additional critical care time spent in discussion about this pt: 30
   minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 215**] [**Last Name (NamePattern1) 216**], MD
   on:[**2112-5-24**] 10:50 PM ------

2112-05-25 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - STOP [**2112-5-24**] 03:00 PM
 PICC LINE - START [**2112-5-24**] 03:00 PM
   [**5-24**]
   - Rheum Consulted: urine sediment and consider CT sinus
   - ? Ruling out for TB & respiratory viruses
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Cardura (Oral) (Doxazosin Mesylate)
   urinary inconti
   Codeine
   Nausea/Vomiting
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-5-23**] 09:35 PM
   Azithromycin - [**2112-5-24**] 08:00 AM
   Cefipime - [**2112-5-24**] 08:36 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2112-5-24**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2112-5-24**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-25**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.8
C (98.3
   HR: 83 (62 - 87) bpm
   BP: 163/66(100) {111/45(73) - 163/107(119)} mmHg
   RR: 16 (14 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,186 mL
                                                                    468 mL
   PO:
             TF:
                                                                    636 mL
                                                                    234 mL
   IVF:
                                                                    550 mL
                                                                    234 mL
   Blood products:
   Total out:
                                                                  1,129 mL
                                                                    170 mL
   Urine:
                                                                  1,129 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     57 mL
                                                                    298 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 420 (420 - 420) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.34/38/102/21/-4
   Ve: 8.2 L/min
   PaO2 / FiO2: 146
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   242 K/uL
   7.1 g/dL
   117 mg/dL
   2.2 mg/dL
   21 mEq/L
   4.1 mEq/L
   64 mg/dL
   113 mEq/L
   142 mEq/L
   20.6 %
   11.5 K/uL
        [image002.jpg]
                             [**2112-5-23**]  07:33 AM
                             [**2112-5-23**]  05:23 PM
                             [**2112-5-23**]  05:27 PM
                             [**2112-5-23**]  05:47 PM
                             [**2112-5-23**]  11:13 PM
                             [**2112-5-24**]  04:03 AM
                             [**2112-5-24**]  04:29 PM
                             [**2112-5-24**]  04:50 PM
                             [**2112-5-24**]  10:05 PM
                             [**2112-5-25**]  03:57 AM
   WBC
   13.4
   11.5
   Hct
   22.5
   21.9
   21.3
   20.6
   Plt
   253
   242
   Cr
   2.3
   2.3
   2.2
   TCO2
   21
   21
   21
   20
   21
   Glucose
   113
   121
   117
   Other labs: PT / PTT / INR:13.8/25.8/1.2, Differential-Neuts:89.5 %,
   Lymph:5.2 %, Mono:3.9 %, Eos:1.2 %, Lactic Acid:0.7 mmol/L, Albumin:3.1
   g/dL, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR: improved compared to [**5-23**], unable to assess ET
   Microbiology: BAL stains pending, viral cultures discarded
   (insuffienent cells
   BCX [**5-23**] pending
   Assessment and Plan
 HYPOXEMIA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANEMIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ACTIVITY INTOLERANCE
   79 yo F with MGUS, ILD (with baseline impairment in DLCO in the setting
   of current working diagnosis of NSIP), DM, admitted with worsening
   dyspnea, diffuse pulm infiltrates, progressive resp failure requiring
   intubation and arf
   Resp picture is concerning for infectious insult on underlying ild with
   poor reserve  Bacterial pna,  Viral, PCP or even fungal infection is on
   ddx given some immunosupression (from MGUS) .  Alternatively, with this
   type of diffuse infiltrate b/l must consider possiblilty of accelerated
   process of interstitial lung disease or AIP or AEP.  DAH or pul;m/renal
   syndrome remains possibility (in light of anemia) though without bloody
   secretions from ETT appears far less likely. Now making some progress
   in terms of improving oxygenation.
   Active issues include:
   #  Acute resp failure
   # ARDS by p/f ratio
   # pna/diffuse infiltrates
   --continue vent support--ards net low tidal volumes
   --wean FiO2 for pao2 > 60
   --repeat mini BAL to eval cell counts for eos though with progress in
   oxygenation appears less likely
   --continue broad coverage with Vanco/Cefepime/Azithro
   -- f/u b d glucan, galactomanin, pending cx's
   # Acute Renal Failure-pulm renal syndrome remains on ddx, amyloid, MM
   tranformation
   --Renal following
   --f/u labs --SPEP/UPEP
   --Renal bx and BM bx (heme following) when stable for procedures
   --renally dose meds
   -- Rheum c/s given presumptive p-anca positivity regarding additional
   w/u or initiation of steroids for possible vasculitis
   #  Anemia
   --transfuse to maintain hct > 21, keep t and screen
   ? related to renal decline, continue to monitor for hemolysis
   #htn
titrate lopressor
   This 79F with h/o DM, MGUS, and ILD with renal failure and progressive
   respiratory failure requiring intubation.
   1. Hypoxemic respiratory failure:  R-sided infiltrate and diffuse
   opacities.  Meets criteria for ARDS.  Differential for etiology
   includes worsening of underlying ILD, eosinophilic PNA, diffuse
   alveolar hemorrhage, infectious cause.  Pulmonary-renal vasculitic
   syndrome is also possible now that p-ANCA presumptively positive.  .Not
   on immunosuppressive drugs at home but is likely immunosuppressed
   secondary to her diabetes, MGUS, putting her at risk for fungal
   etiology.
   - repeat mini-BAL for eosinophils, will also check for blood for DAH.
   PCP [**Name Initial (PRE) 442**].
   - f/u culture data: all NGTD
   - f/u beta glucan/galactomannan,  final ANCA, anti-GBM
   - consult rheum given lung/renal involvement and + p-ANCA
   - continue cefepime and vancomycin for broad coverage as well as
   azithromycin for atypicals
   -  keep PEEP at 16, decrease FiO2 to to60% ;  maintain PaO2 >60%
   - MDI PRN
   2. Anemia:   B12 and folate have been recently normal.  Cause is likely
   [**2-15**] ESRD.  Hematology following and thinks multiple myeloma is less
   likely.  Hemolysis labs have been previously normal.  Also there is
   some concern for pulmonary hemmorhage as above.  She does have a
   history of gastritis but GI bleed is unlikely
   - continue [**Hospital1 7**] PPI
   - guaiac stools
   - [**Hospital1 7**] Hct
   - Transfuse Hct<21
   3. Acute on chronic renal failure:  Nephrotic range proteinuria.  Reanl
   favors myeloma (light chain deposition) vs Rheum favors
   pulmonary-vascular vasculitis such as Wegener
s/Goodpastures.
   - F/u renal recs, rheum recs
   - F/u UPEP
   - F/u Final ANCA, anti-GBM
   - follow urine output
   - f/u vanc trough on [**5-26**], dosing changed to q24 from q48 for low
   trough
   4. MGUS:  Hematology following. SPEP not suggestive of myeloma.
   Isolated light chain is possible and will be able to determine with
   UPEP
   - f/u UPEP
   5. DM
   - Following fingersticks QACHS, insulin sliding scale goal <150
   6. CAD
   - Continue ASA, statin, beta blocker
   - holding [**Last Name (un) **] given ARF
   7. HTN:  currently well controlled.
   - CCB not crushable; increase metoprolol 25 [**Hospital1 **] to 25 tid
   - holding [**Last Name (un) **] as above
   8. Hypothyroid
   - continue home dose levothyroxine.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2112-5-25**] 12:33 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-5-23**] 03:21 AM
   20 Gauge - [**2112-5-23**] 04:03 AM
   PICC Line - [**2112-5-24**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2112-05-25 10:43:00 Physician Attending Progress Note
Chief Complaint: resp failure/arf/ards
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MIDLINE - STOP [**2112-5-24**] 03:00 PM
 PICC LINE - START [**2112-5-24**] 03:00 PM
   Rheum c/s
   Esoph balloon placed--peep maintained at 16
   History obtained from ho
   Patient unable to provide history: intubated
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Cardura (Oral) (Doxazosin Mesylate)
   urinary inconti
   Codeine
   Nausea/Vomiting
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2112-5-24**] 08:00 AM
   Cefipime - [**2112-5-24**] 08:36 PM
   Vancomycin - [**2112-5-25**] 09:21 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-5-25**] 08:51 AM
   Midazolam (Versed) - [**2112-5-25**] 08:51 AM
   Other medications:
   reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-25**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 84 (62 - 90) bpm
   BP: 149/59(90) {123/45(73) - 163/107(119)} mmHg
   RR: 15 (14 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,186 mL
                                                                    875 mL
   PO:
             TF:
                                                                    636 mL
                                                                    305 mL
   IVF:
                                                                    550 mL
                                                                    510 mL
   Blood products:
   Total out:
                                                                  1,129 mL
                                                                    310 mL
   Urine:
                                                                  1,129 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     57 mL
                                                                    565 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 420 (420 - 420) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.34/38/102/21/-4
   Ve: 8.2 L/min
   PaO2 / FiO2: 146
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Bowel sounds present, No(t) Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  no rash/petechiae
   Neurologic: Attentive, Follows simple commands, Responds to:voice,
   Labs / Radiology
   7.1 g/dL
   242 K/uL
   117 mg/dL
   2.2 mg/dL
   21 mEq/L
   4.1 mEq/L
   64 mg/dL
   113 mEq/L
   142 mEq/L
   20.6 %
   11.5 K/uL
        [image002.jpg]
                             [**2112-5-23**]  07:33 AM
                             [**2112-5-23**]  05:23 PM
                             [**2112-5-23**]  05:27 PM
                             [**2112-5-23**]  05:47 PM
                             [**2112-5-23**]  11:13 PM
                             [**2112-5-24**]  04:03 AM
                             [**2112-5-24**]  04:29 PM
                             [**2112-5-24**]  04:50 PM
                             [**2112-5-24**]  10:05 PM
                             [**2112-5-25**]  03:57 AM
   WBC
   13.4
   11.5
   Hct
   22.5
   21.9
   21.3
   20.6
   Plt
   253
   242
   Cr
   2.3
   2.3
   2.2
   TCO2
   21
   21
   21
   20
   21
   Glucose
   113
   121
   117
   Other labs: PT / PTT / INR:13.8/25.8/1.2, Differential-Neuts:89.5 %,
   Lymph:5.2 %, Mono:3.9 %, Eos:1.2 %, Lactic Acid:0.7 mmol/L, Albumin:3.1
   g/dL, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Fluid analysis / Other labs: rheum labs pending include upep,
   confirmation of p-anca
   Imaging: cxr--slight improvement aeration at R with clearing of r
   hemidiaph
   Microbiology: no new data
   Assessment and Plan
 HYPOXEMIA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANEMIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ACTIVITY INTOLERANCE
   79 yo F with MGUS, ILD (with baseline impairment in DLCO in the setting
   of current working diagnosis of NSIP), DM, admitted with worsening
   dyspnea, diffuse pulm infiltrates, progressive resp failure requiring
   intubation and arf.
   Active issues include:
          Acute resp failure
                 ARDS by p/f ratio
                 diffuse pulm infiltrates
          ARF
          Anemia
          Htn
          New fever
   This type of diffuse pulm infiltrate is concerning for accelerated
   process of interstitial lung disease or AIP.  Vasculitis or pulm/renal
   syndrome remains of high concern given concurrent arf, though ? of
   amyloid or light chain disease further complicates this picture.
   Additionally would expect to see continued decline in renal function
   rather than stabilization.  Infectious etiologies now seem less
   likely
at onset did not have leukocytosis or fevers
and cx results/mini
   bal finding have all been negative to date. DAH without bloody
   secretions from ETT also appears far less likely.   New fevers this am
   raise concern for new infection though remains without
   secretions/obvious new infiltrate to suggest vap, or diarrhea, and
   lines are all new.  Fevers could be related to inflammatory process or
   vascultits.
   Agree with plan to continue vent support
ards net volumes, esoph
   balloon to guide peep, weaning o2 to keep pao2 >60. Continue empiric
   broad spec antibx, f/u pending cx data.  Will recx given temp spike
   with low threshold to add double gram neg coverage and fungal
   coverage.  Given ? p-anca and new information about u/a with ? rbc
   casts
will initiate pulse steroids for presumed vasculitis/steroid
   responsive lung process.  Will scan sinuses to assess for involvement
   and r/o sinusitis as possible cause of temp.  Will repeat chest ct to
   assess for change given small improvement in cxr appearance and
   oxygenation.  Renal and rheum input appreciated.  Will pursue renal bx
   in am.  Await  p-anca confirmation.  Maintain active t and c and
   transfuse for hct > 21.  Add norvasc for improved BP control.  Monitor
   blood sugars in light of steroids.
   Other issues as per resident
s note.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2112-5-25**] 08:52 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2112-5-23**] 03:21 AM
   20 Gauge - [**2112-5-23**] 04:03 AM
   PICC Line - [**2112-5-24**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2112-05-26 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2112-5-25**] 11:09 AM
   x1 from PICC x1 from ALine
 FEVER - 101.2
F - [**2112-5-25**] 10:00 AM
   - pulse steroids started 1g solumedral daily
   - renal biospsy on [**5-26**], npo after MN
   - Rheum, heme, renal all in agreemnet about pulse steroids
   - may need atovaquone PCP [**Name9 (PRE) 7541**] ordered yet
   - started on amlodipine
   - got 1 U prbc with good bump, 2nd U as per renal request in
   anticipation of biospy
   - added lantus
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Cardura (Oral) (Doxazosin Mesylate)
   urinary inconti
   Codeine
   Nausea/Vomiting
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2112-5-24**] 08:00 AM
   Vancomycin - [**2112-5-25**] 09:21 AM
   Cefipime - [**2112-5-25**] 08:19 PM
   Infusions:
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2112-5-25**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2112-5-25**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-26**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.3
C (97.4
   HR: 60 (55 - 90) bpm
   BP: 152/61(94) {90/48(68) - 171/75(113)} mmHg
   RR: 17 (12 - 23) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
           Total In:
                                                                  2,360 mL
                                                                    548 mL
   PO:
           TF:
                                                                    720 mL
                                                                     45 mL
   IVF:
                                                                  1,110 mL
                                                                    153 mL
   Blood products:
                                                                    350 mL
                                                                    350 mL
   Total out:
                                                                    775 mL
                                                                    150 mL
   Urine:
                                                                    775 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,585 mL
                                                                    398 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   PEEP: 16 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 95%
   ABG: 7.31/43/157/20/-4
   Ve: 8.6 L/min
   PaO2 / FiO2: 262
   Physical Examination
   General: intubated, sedated, responds to stimulation with opening eyes,
   trying to talk
   HEENT: Sclera anicteric, pale conjunctiva
   Neck: No JVD
   Pulm:  diffuse crackles
   CV: Regular S1 S2 no m/r/g
   Abd: Soft nontender +bowel sounds
   Extrem: Warm, 1+ upper and lower extremity edema, R radial arterial
   line
   Labs / Radiology
   241 K/uL
   10.2 g/dL
   154 mg/dL
   2.4 mg/dL
   20 mEq/L
   5.1 mEq/L
   77 mg/dL
   110 mEq/L
   141 mEq/L
   30.8 %
   10.1 K/uL
        [image002.jpg]
                             [**2112-5-23**]  11:13 PM
                             [**2112-5-24**]  04:03 AM
                             [**2112-5-24**]  04:29 PM
                             [**2112-5-24**]  04:50 PM
                             [**2112-5-24**]  10:05 PM
                             [**2112-5-25**]  03:57 AM
                             [**2112-5-25**]  04:13 PM
                             [**2112-5-25**]  08:53 PM
                             [**2112-5-26**]  04:24 AM
                             [**2112-5-26**]  05:40 AM
   WBC
   13.4
   11.5
   13.0
   10.1
   Hct
   21.9
   21.3
   20.6
   21.1
   26.9
   30.8
   Plt
   [**Telephone/Fax (3) 7542**]41
   Cr
   2.3
   2.2
   2.2
   2.4
   TCO2
   21
   20
   21
   23
   Glucose
   121
   117
   137
   154
   Other labs: PT / PTT / INR:13.2/25.3/1.1, Alk Phos / T Bili:/0.5,
   Differential-Neuts:89.5 %, Lymph:5.2 %, Mono:3.9 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:400 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Micro:  [**5-25**] blood cx NGTD, [**5-25**] urine cx NGTD, [**5-24**] nasal aspirate for
   viral screen negative
   CT Chest [**5-25**]
   Overall improvement in diffuse widespread ground-glass opacities
   suggestive of
   resolving bilateral pulmonary hemorrhage. Multiple enlarged mediastinal
   lymph
   nodes, likely reactive.
   CT sinus [**5-25**]:
   Small amount of aerosolized secretions within the sphenoid sinus
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPOXEMIA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANEMIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ACTIVITY INTOLERANCE
   This 79F with h/o DM, MGUS, and ILD with renal failure and progressive
   respiratory failure requiring intubation.
   1. Hypoxemic respiratory failure:  Most likely cause is a
   pulmonary-renal syndrome given p-ANCA presumably positive.   High-dose
   steroids started yesterday given this likelihood.  ABG shows excellent
   oxygenation on current vent settings, so perhaps steroids are already
   having some effect.  Her chest CT looks improved from prior. Low
   suspcion for an infectious etiology (PCP and fungal markers have been
   negative); however, she remains on broad spectrum antibiotics.
   - f/u culture data: all NGTD
   - f/u final ANCA
   - decrease FiO2 and PEEP as tolerated to maintain PaO2 >60
   - f/u final read chest CT
   - continue methylprednisolone 1 g q24h
   - continue vancomycin, azithromycin, cefepime until tomorrow (day
   1=[**5-21**]), which will complete a 7-day course in case infectious etiology
   was at play
   - f/u Rheum recs; may discuss starting cytoxan
   .
   2. Acute on chronic renal failure:  With nephrotic range proteinuria
   and a urinary protein gap.  However, UPEP without any significant
   Bence-[**Doctor Last Name 720**] protein, so myeloma less likely as a cause.  Vasculitis is
   the most likely cause, possibly related to pulmonary issues above.  As
   above, p-ANCA presumptively positive but pending.  Renal biopsy being
   done this morning will aid with diagnosis.  Meanwhile, for treatment,
   steroids started yesterday.
   - continue 1 g methylprednisolone q24h as above
   - follow urine output
   - f/u renal biopsy
   - renal recs
   - f/u vanc trough and dose by level
   3. Anemia:   B12 and folate have been recently normal.  Cause is likely
   [**2-15**] ESRD.   Hemolysis labs have been previously normal.  Also there is
   some concern for pulmonary hemmorhage as above.  She does have a
   history of gastritis but GI bleed is unlikely.
   - continue [**Hospital1 7**] PPI
   - guaiac stools
   - [**Hospital1 7**] Hct
   - Transfuse Hct<21: transfuse 1 Unit today
   .
   4. Fever: Afebrile after a single T 101.2 yesterday morning.  [**Month (only) 51**] be
   secondary to inflammatory/ vasculitic process.  Low suspicion for
   infection, already on broad-spectrum antibacterial coverage.
   - f/u blood cx
   5. MGUS:  Hematology following. SPEP and UPEP not suggestive of
   myeloma.
   .
   5. DM:  added lantus yesterday but hasn
t gotten first dose yet
   - Following fingersticks QACHS, insulin sliding scale goal <150
   6. CAD
   - statin, beta blocker, no [**Last Name (LF) **], [**First Name3 (LF) **] discuss with renal if can start
   after renal bx
   - holding [**Last Name (un) **] given ARF
   7. HTN:  After increasing metoprolol yesterday and adding Norvasc, BP
   is better controlled but currently mildly bradycardic.
   - decrease metoprolol to [**Hospital1 7**]
   - continue nifedipine
   - would consider hydralazine PRN hypertension
   8. Hypothyroid
   - continue home dose levothyroxine, switched to liquid form
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-5-23**] 03:21 AM
   PICC Line - [**2112-5-24**] 03:00 PM
   Prophylaxis:
   DVT:  heparin SC,
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full code
   Disposition:

2112-05-27 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**5-26**]
   - s/p Renal biopsy on [**5-25**]
   - Weaned vent to 40%/14 peep
   - Decreased BB to [**Hospital1 7**] from TID for bradycardia
   - p-ANCA/MPO positive, dilution back on Friday (talked to [**Hospital1 1031**])
   [**5-27**]:
   Swtiched to pressure support psv=5/peep=5 with PaO2= 67
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Cardura (Oral) (Doxazosin Mesylate)
   urinary inconti
   Codeine
   Nausea/Vomiting
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Azithromycin - [**2112-5-24**] 08:00 AM
   Vancomycin - [**2112-5-25**] 09:21 AM
   Cefipime - [**2112-5-26**] 08:20 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-5-26**] 08:32 PM
   Lansoprazole (Prevacid) - [**2112-5-26**] 08:32 PM
   Midazolam (Versed) - [**2112-5-27**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-27**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 58 (53 - 72) bpm
   BP: 142/52(83) {125/47(72) - 170/69(110)} mmHg
   RR: 15 (12 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 60 Inch
             Total In:
                                                                  1,487 mL
                                                                    371 mL
   PO:
             TF:
                                                                    286 mL
                                                                    208 mL
   IVF:
                                                                    751 mL
                                                                    163 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    720 mL
                                                                    305 mL
   Urine:
                                                                    720 mL
                                                                    245 mL
   NG:
   60 mL
   Stool:
   Drains:
   Balance:
                                                                    767 mL
                                                                     66 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 20
   PEEP: 14 cmH2O
   FiO2: 40%
   PIP: 32 cmH2O
   Plateau: 28 cmH2O
   SpO2: 95%
   ABG: 7.31/37/116//-6
   Ve: 9.1 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   236 K/uL
   9.0 g/dL
   154 mg/dL
   2.4 mg/dL
   20 mEq/L
   5.1 mEq/L
   77 mg/dL
   110 mEq/L
   141 mEq/L
   26.9 %
   10.3 K/uL
        [image002.jpg]
                             [**2112-5-25**]  04:13 PM
                             [**2112-5-25**]  08:53 PM
                             [**2112-5-26**]  04:24 AM
                             [**2112-5-26**]  05:40 AM
                             [**2112-5-26**]  01:45 PM
                             [**2112-5-26**]  02:46 PM
                             [**2112-5-26**]  05:14 PM
                             [**2112-5-26**]  06:00 PM
                             [**2112-5-26**]  07:44 PM
                             [**2112-5-27**]  05:38 AM
   WBC
   13.0
   10.1
   10.3
   Hct
   21.1
   26.9
   30.8
   26.7
   27.9
   26.9
   Plt
   261
   241
   236
   Cr
   2.2
   2.4
   TCO2
   23
   23
   21
   20
   Glucose
   137
   154
   Other labs: PT / PTT / INR:13.2/25.3/1.1, Alk Phos / T Bili:/0.5,
   Differential-Neuts:89.5 %, Lymph:5.2 %, Mono:3.9 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:400 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.1 mg/dL
   Imaging: cxr: ET 3cm from carina
   Microbiology: Mini- BAL neagative
   Sputum negative
   Bcx [**5-23**], 5/13x2 pending
   ASO titer pending
   RENAL BIOPSY PENDING
   Assessment and Plan
 HYPOXEMIA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANEMIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ACTIVITY INTOLERANCE
   This 79F with h/o DM, MGUS, and ILD with renal failure and progressive
   respiratory failure requiring intubation.
   1. Hypoxemic respiratory failure:  Most likely cause is a
   pulmonary-renal syndrome given p-ANCA presumably positive.   High-dose
   steroids started yesterday given this likelihood.  ABG shows excellent
   oxygenation on current vent settings, so perhaps steroids are already
   having some effect.  Her chest CT looks improved from prior. Low
   suspcion for an infectious etiology (PCP and fungal markers have been
   negative); however, she remains on broad spectrum antibiotics.
   - f/u culture data: all NGTD
   - f/u final ANCA
   - decrease FiO2 and PEEP as tolerated to maintain PaO2 >60
   - f/u final read chest CT
   - continue methylprednisolone 1 g q24h
   - continue vancomycin, azithromycin, cefepime until tomorrow (day
   1=[**5-21**]), which will complete a 7-day course in case infectious etiology
   was at play
   - f/u Rheum recs; may discuss starting cytoxan
   .
   2. Acute on chronic renal failure:  With nephrotic range proteinuria
   and a urinary protein gap.  However, UPEP without any significant
   Bence-[**Doctor Last Name 720**] protein, so myeloma less likely as a cause.  Vasculitis is
   the most likely cause, possibly related to pulmonary issues above.  As
   above, p-ANCA presumptively positive but pending.  Renal biopsy being
   done this morning will aid with diagnosis.  Meanwhile, for treatment,
   steroids started yesterday.
   - continue 1 g methylprednisolone q24h as above
   - follow urine output
   - f/u renal biopsy
   - renal recs
   - f/u vanc trough and dose by level
   3. Anemia:   Hematocrit bumped appropriately yesterday after two units
   of blood.  B12 and folate have been recently normal.  Cause is likely
   [**2-15**] ESRD.
   - continue [**Hospital1 7**] PPI
   - [**Hospital1 7**] Hct
   - Transfuse Hct<2
   .
   4. Fever: Afebrile after a single T 101.2 yesterday morning.  [**Month (only) 51**] be
   secondary to inflammatory/ vasculitic process.  Low suspicion for
   infection, already on broad-spectrum antibacterial coverage.
   - f/u blood cx
   5. MGUS:  Hematology following. SPEP and UPEP not suggestive of
   myeloma.
   .
   5. DM:  added lantus yesterday but hasn
t gotten first dose yet
   - Following fingersticks QACHS, insulin sliding scale goal <150
   6. CAD
   - statin, beta blocker, no [**Last Name (LF) **], [**First Name3 (LF) **] discuss with renal if can start
   after renal bx
   - holding [**Last Name (un) **] given ARF
   7. HTN:  After increasing metoprolol yesterday and adding Norvasc, BP
   is better controlled but currently mildly bradycardic.
   - decrease metoprolol to [**Hospital1 7**]
   - continue nifedipine
   - would consider hydralazine PRN hypertension
   8. Hypothyroid
   - continue home dose levothyroxine, switched to liquid form
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2112-5-26**] 03:10 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-5-23**] 03:21 AM
   PICC Line - [**2112-5-24**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-05-28 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2112-5-27**] 08:00 PM
 PICC LINE - STOP [**2112-5-27**] 08:07 PM
   [**5-27**]
   - Diagnoes with pulmonary renal syndrome (Weg vs. GoodP), started on
   Cytoxan, Steroids, IVF
   - OG out, NG in for planned extubation in AM
   - Cytoxan converted to IV, given Zofran 24mg IV x1 Premed
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Cardura (Oral) (Doxazosin Mesylate)
   urinary inconti
   Codeine
   Nausea/Vomiting
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2112-5-25**] 09:21 AM
   Cefipime - [**2112-5-26**] 08:20 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-5-27**] 09:00 PM
   Lansoprazole (Prevacid) - [**2112-5-27**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-28**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.4
C (97.6
   HR: 60 (58 - 85) bpm
   BP: 153/58(92) {137/51(83) - 166/72(110)} mmHg
   RR: 13 (12 - 21) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,067 mL
                                                                  1,387 mL
   PO:
             TF:
                                                                    599 mL
                                                                    180 mL
   IVF:
                                                                    389 mL
                                                                  1,137 mL
   Blood products:
   Total out:
                                                                  1,070 mL
                                                                    620 mL
   Urine:
                                                                  1,010 mL
                                                                    620 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                     -3 mL
                                                                    767 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (440 - 580) mL
   PS : 8 cmH2O
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 33
   SpO2: 93%
   ABG: 7.34/38/67/17/-4
   Ve: 10 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General: intubated, sedated, responds to stimulation with opening eyes,
   trying to talk
   HEENT: Sclera anicteric, pale conjunctiva
   Neck: No JVD
   Pulm:  diffuse crackles with faint wheezing
   CV: Regular S1 S2 no m/r/g
   Abd: Soft nontender +bowel sounds
   Extrem: Warm no edema palpable distal pulses, R radial arterial line
   Labs / Radiology
   242 K/uL
   9.1 g/dL
   194 mg/dL
   2.6 mg/dL
   17 mEq/L
   4.1 mEq/L
   113 mg/dL
   119 mEq/L
   148 mEq/L
   27.0 %
   8.9 K/uL
        [image002.jpg]
                             [**2112-5-26**]  01:45 PM
                             [**2112-5-26**]  02:46 PM
                             [**2112-5-26**]  05:14 PM
                             [**2112-5-26**]  06:00 PM
                             [**2112-5-26**]  07:44 PM
                             [**2112-5-27**]  05:38 AM
                             [**2112-5-27**]  11:04 AM
                             [**2112-5-27**]  02:47 PM
                             [**2112-5-27**]  03:01 PM
                             [**2112-5-28**]  05:45 AM
   WBC
   10.3
   8.9
   Hct
   26.7
   27.9
   26.9
   27.0
   27.0
   Plt
   236
   242
   Cr
   2.7
   2.6
   TCO2
   23
   21
   20
   21
   21
   Glucose
   181
   194
   Other labs: PT / PTT / INR:13.2/25.3/1.1, Alk Phos / T Bili:/0.5,
   Differential-Neuts:89.5 %, Lymph:5.2 %, Mono:3.9 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:382 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.5 mg/dL
   Microbiology: BCx [**5-25**] pending
   All other CX and ASO titer negative
   Assessment and Plan
 HYPOXEMIA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANEMIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ACTIVITY INTOLERANCE
   This 79F with h/o DM, MGUS, and ILD with renal failure and progressive
   respiratory failure requiring intubation, secondary to Wegner
s (+
   PANCA/MPO).
   #. Hypoxemic respiratory failure:  Most likely cause is a
   pulmonary-renal syndrome given p-ANCA /MPO positive.   High-dose
   steroid 3 day course complete  Her chest CT looked improved from prior.
   Completed 7 day course of broad spectrum antibiotics. Tolerating PSV
   0/5 well this AM.
   - f/u culture data: all NGTD
   - continue methylprednisolone (pulse dose complete) at 30am/40pm
   - vancomycin, azithromycin, cefepime 1 week course complete, starting
   atovaquone PPX given long expected duration of Abx
   - f/u Rheum recs; continue cytoxan always with IVF
   - SBT this AM for attempt at extubation.
   .
   #. Acute on chronic renal failure:  Renal path showing crescentic
   glomerulonephritis, c/w Wegner
s as PANCA/MPO would suggest.
   - solumedrol 30am/40pm and cytoxan as above
   - follow urine output
   - renal recs
   #. Anemia:   Hematocrit bumped appropriately yesterday after two units
   of blood.  B12 and folate have been recently normal.  Cause is likely
   [**2-15**] ESRD.   Hapto not suggestive of hemolysis.
   - continue [**Hospital1 7**] PPI
   - Transfuse Hct<21
   .
   # Hypernatremia: etiology unclear, will monitor as pt progresses to po
   intake s/p extubation and will encourage free water po
   #. Fever: Afebrile X 48 hrs.  [**Month (only) 51**] be secondary to inflammatory/
   vasculitic process.  Low suspicion for infection, broad Abx course
   complete.
   - f/u blood cx
   5. MGUS:  Hematology following. SPEP and UPEP not suggestive of
   myeloma.
   .
   5. DM:  added [**Last Name (LF) **], [**First Name3 (LF) **] continue as will be on steroids long term
   - Following fingersticks QACHS, insulin sliding scale goal <150
   6. CAD
   - statin, beta blocker, no [**Last Name (LF) **], [**First Name3 (LF) **] discuss with renal re; restart
   given recent renal bx
   - holding [**Last Name (un) **] given ARF
   7. HTN:  After increasing metoprolol yesterday and adding Norvasc, BP
   is better controlled
   - continue metoprolol
   - continue amlodipine
   - would consider hydralazine PRN hypertension
   8. Hypothyroid
   - continue home dose levothyroxine, switch liquid form back to solid
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-5-23**] 03:21 AM
   Midline - [**2112-5-27**] 08:00 PM
   Prophylaxis:
   DVT: sqh
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2112-05-29 08:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2112-5-28**] 11:51 AM
   [**5-28**]
   - Extubated, oxygenating well on face mask at first, then NC
   - free water deficit corrected with PO
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Cardura (Oral) (Doxazosin Mesylate)
   urinary inconti
   Codeine
   Nausea/Vomiting
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Cefipime - [**2112-5-26**] 08:20 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2112-5-28**] 08:56 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-29**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.3
C (95.5
   HR: 55 (53 - 69) bpm
   BP: 171/64(103) {153/57(91) - 179/77(113)} mmHg
   RR: 17 (14 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 60 Inch
             Total In:
                                                                  1,896 mL
                                                                  1,300 mL
   PO:
                                                                    240 mL
                                                                    300 mL
   TF:
                                                                    180 mL
   IVF:
                                                                  1,226 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                    545 mL
   Urine:
                                                                  2,110 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -214 mL
                                                                    755 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 420 (420 - 510) mL
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 100%
   SpO2: 94%
   ABG: ///17/
   Ve: 7.3 L/min
   Physical Examination
   General: intubated, sedated, responds to stimulation with opening eyes,
   trying to talk
   HEENT: Sclera anicteric, pale conjunctiva
   Neck: No JVD
   Pulm:  crackles 2/3 up lung fields b/L
   CV: Regular S1 S2 no m/r/g
   Abd: Soft nontender +bowel sounds
   Extrem: Warm no edema palpable distal pulses, R radial arterial line
   Labs / Radiology
   255 K/uL
   9.7 g/dL
   126 mg/dL
   2.2 mg/dL
   17 mEq/L
   3.9 mEq/L
   108 mg/dL
   116 mEq/L
   143 mEq/L
   28.3 %
   11.5 K/uL
        [image002.jpg]
                             [**2112-5-26**]  02:46 PM
                             [**2112-5-26**]  05:14 PM
                             [**2112-5-26**]  06:00 PM
                             [**2112-5-26**]  07:44 PM
                             [**2112-5-27**]  05:38 AM
                             [**2112-5-27**]  11:04 AM
                             [**2112-5-27**]  02:47 PM
                             [**2112-5-27**]  03:01 PM
                             [**2112-5-28**]  05:45 AM
                             [**2112-5-29**]  04:06 AM
   WBC
   10.3
   8.9
   11.5
   Hct
   26.7
   27.9
   26.9
   27.0
   27.0
   28.3
   Plt
   [**Telephone/Fax (3) 7592**]
   Cr
   2.7
   2.6
   2.2
   TCO2
   21
   20
   21
   21
   Glucose
   181
   194
   126
   Other labs: PT / PTT / INR:16.1/33.6/1.4, Alk Phos / T Bili:/0.5,
   Differential-Neuts:89.5 %, Lymph:5.2 %, Mono:3.9 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:382 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR:
   Microbiology: path: Pauci-immune crescentic glomerulonephritis in the
   setting of P-ANCA positivity
   ASO titer negative
   BCX [**5-25**] pending
   Assessment and Plan
 HYPOXEMIA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 ANEMIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 HYPERTENSION, BENIGN
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 ACTIVITY INTOLERANCE
   This 79F with h/o DM, MGUS, and ILD with renal failure and progressive
   respiratory failure requiring intubation, secondary to PANCA/MPO
   positive vasculitis
   #. Hypoxemic respiratory failure:  Most likely cause is a
   pulmonary-renal syndrome given p-ANCA /MPO positive.   High-dose
   steroid 3 day course complete  Her chest CT looked improved from prior.
   Completed 7 day course of broad spectrum antibiotics. Extubated
   yesterday and sting well on 4L NC.
   - f/u culture data: all NGTD
   - continue methylprednisolone (pulse dose complete) at 30am/40pm
   - vancomycin, azithromycin, cefepime 1 week course complete, continue
   atovaquone PPX given long expected duration of steoids
   - f/u Rheum recs; continue cytoxan always with IVF
   -fluid overaloaded on exam, will diurese gently with lasix
   .
   #. Acute on chronic renal failure:  Renal path showing crescentic
   glomerulonephritis, c/w PANCA/MPO + vasculitis
   - solumedrol 30am/40pm and cytoxan as above
   - follow urine output
   - renal recs
   #. Anemia:   Hematocrit stable post transfusion x 48hrs.  B12 and
   folate have been recently normal.  Cause is likely [**2-15**] ESRD.   Hapto
   not suggestive of hemolysis.
   - continue [**Hospital1 7**] PPI
   - Transfuse Hct<21
   .
   # Hypernatremia: etiology unclear, responded well to free water po
   - continue to monitor and encourage po as needed
   5. MGUS:  Hematology determined. SPEP and UPEP not suggestive of
   myeloma. Will need f/u as outpt for further mgt.
   .
   5. DM:  increased [**Last Name (LF) **], [**First Name3 (LF) **] continue as will be on steroids long
   term
   - Following fingersticks QACHS, insulin sliding scale goal <150
   6. CAD
   - statin, beta blocker, restart ASA
   - holding [**Last Name (un) **] given ARF
   7. HTN: currently uncontrolled, had to decrease metoprolol [**2-15**]
   bradycardia.
   - continue metoprolol 12.5 mg [**Hospital1 **]
   - continue amlodipine 10mg daily
   - added hydralazine 40mg po q6
   8. Hypothyroid
   - continue home dose levothyroxine
   ICU Care
   Nutrition:
   ADAT
   Glycemic Control:
   Lines:
   Arterial Line - [**2112-5-23**] 03:21 AM
   Midline - [**2112-5-27**] 08:00 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: LIKELY TO FLOOR PENDING IMPROVEMENT IN BP
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mrs [**Known lastname 7451**] is safely extubated an doing well. She has had issues with
   BP control overnight and an element of  PND. cytoxan has been started
   today and she has benefitted from low dose lasix to help with UO (
   nearly 1.8L)  pANCA positive in keeping with diagnosis of Wegener's..
   She is now on nasal canula O2.
   She does have diffuse exp wheezing. There is minimal ankle edema but
   marked edema in UE's
   Exam notable for Tm  97.2 BP 155/57 HR  of 63 RR of 14 with sats of
   90% on vent . Labs notable for WBC  11.5K, HCT  28.2, K+  3.9, Cr  2.2,
   BUN of 108. CXR with diffuse bilateral interstitial disease, minimal
   effusions.
   Agree with plan to gently diurese today and continue steroids and
   cytoxan. She will continue with antibiotics for now pending culture
   review. She will need aggressive BP control ( nifedipine vs norvasc)
   and close attention to glycemic issues too. She will likely leave the
   ICU later today if no setback on account of breathing
   Remainder of plan as outlined above.
   Patient is stable
   Total time: 25 min
   _________
   [**First Name8 (NamePattern2) 3093**] [**Name8 (MD) **],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 5791**]
   [**Location (un) 5176**], KS-B23
   [**Location (un) 23**], [**Numeric Identifier 960**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3093**] [**Name8 (MD) **], MD
   on:[**2112-5-29**] 14:38 ------

2112-05-30 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - BP meds uptitrated: hydralazine from 20-->40 Q6H, continued
   amlodipine
   - Started vitamin D given prolonged steroid course
   - Given lasix for ? pulm edema (esp in setting of HTN), then got
   cytoxan with IVF
   - 1.3L negative
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Cardura (Oral) (Doxazosin Mesylate)
   urinary inconti
   Codeine
   Nausea/Vomiting
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2112-5-29**] 11:23 AM
   Hydralazine - [**2112-5-29**] 11:23 AM
   Heparin Sodium (Prophylaxis) - [**2112-5-29**] 10:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-30**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 62 (55 - 77) bpm
   BP: 156/77(87) {91/49(74) - 185/77(91)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,940 mL
                                                                    317 mL
   PO:
                                                                    960 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    980 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  3,450 mL
                                                                    780 mL
   Urine:
                                                                  3,450 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,510 mL
                                                                   -463 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///18/
   Physical Examination
   General: intubated, sedated, responds to stimulation with opening eyes,
   trying to talk
   HEENT: Sclera anicteric, pale conjunctiva
   Neck: No JVD
   Pulm:  crackles 2/3 up lung fields b/L
   CV: Regular S1 S2 no m/r/g
   Abd: Soft nontender +bowel sounds
   Extrem: Warm no edema palpable distal pulses, R radial arterial line
   Labs / Radiology
   289 K/uL
   10.3 g/dL
   124 mg/dL
   2.0 mg/dL
   18 mEq/L
   3.5 mEq/L
   91 mg/dL
   113 mEq/L
   142 mEq/L
   30.3 %
   11.1 K/uL
        [image002.jpg]
                             [**2112-5-26**]  05:14 PM
                             [**2112-5-26**]  06:00 PM
                             [**2112-5-26**]  07:44 PM
                             [**2112-5-27**]  05:38 AM
                             [**2112-5-27**]  11:04 AM
                             [**2112-5-27**]  02:47 PM
                             [**2112-5-27**]  03:01 PM
                             [**2112-5-28**]  05:45 AM
                             [**2112-5-29**]  04:06 AM
                             [**2112-5-30**]  04:35 AM
   WBC
   10.3
   8.9
   11.5
   11.1
   Hct
   27.9
   26.9
   27.0
   27.0
   28.3
   30.3
   Plt
   [**Telephone/Fax (3) 7610**]89
   Cr
   2.7
   2.6
   2.2
   2.0
   TCO2
   21
   20
   21
   21
   Glucose
   181
   194
   126
   124
   Other labs: PT / PTT / INR:16.1/33.6/1.4, Alk Phos / T Bili:/0.5,
   Differential-Neuts:89.5 %, Lymph:5.2 %, Mono:3.9 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:382 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR: Diffuse basilar opacity. UPDATE
   Microbiology: None
   Assessment and Plan
   This 79F with h/o DM, MGUS, and ILD with renal failure and progressive
   respiratory failure requiring intubation, secondary to PANCA/MPO
   positive vasculitis
   #. Hypoxemic respiratory failure:  Pulmonary Renal Syndrome. Extubated.
   - continue methylprednisolone (pulse dose complete) at 30am/40pm
   - vancomycin, azithromycin, cefepime 1 week course complete, continue
   atovaquone PPX given long expected duration of steoids
   - f/u Rheum recs; continue cytoxan always with IVF
   -fluid overaloaded on exam, will diurese gently with lasix
   #. Acute on chronic renal failure:  Renal path showing crescentic
   glomerulonephritis, c/w PANCA/MPO + vasculitis
   - solumedrol 30am/40pm and cytoxan as above
   - follow urine output
   - renal recs
   #. Anemia:   Hematocrit stable post transfusion x 48hrs.  B12 and
   folate have been recently normal.  Cause is likely [**2-15**] ESRD.   Hapto
   not suggestive of hemolysis.
   - continue [**Hospital1 7**] PPI
   - Transfuse Hct<21
   # Hypernatremia: etiology unclear, responded well to free water po
   - continue to monitor and encourage po as needed
   #. MGUS:  Hematology determined. SPEP and UPEP not suggestive of
   myeloma. Will need f/u as outpt for further mgt.
   #. DM:  increased [**Last Name (LF) **], [**First Name3 (LF) **] continue as will be on steroids long
   term
   - Following fingersticks QACHS, insulin sliding scale goal <150
   #. CAD
   - statin, beta blocker, restart ASA
   - holding [**Last Name (un) **] given ARF
   #. HTN: currently uncontrolled, had to decrease metoprolol [**2-15**]
   bradycardia.
   - continue metoprolol 12.5 mg [**Hospital1 **]
   - continue amlodipine 10mg daily
   - added hydralazine 40mg po q6
   #. Hypothyroid
   - continue home dose levothyroxine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2112-5-27**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2112-05-31 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Continued nausea, unable to take PO hydral, hypertensive
   - short episodes of tachypnea without evidence of flash pulmonary edema
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Cardura (Oral) (Doxazosin Mesylate)
   urinary inconti
   Codeine
   Nausea/Vomiting
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-5-30**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2112-5-30**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-5-31**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.5
   HR: 66 (56 - 73) bpm
   BP: 151/58(82) {149/45(76) - 180/68(97)} mmHg
   RR: 20 (14 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,270 mL
                                                                     71 mL
   PO:
                                                                    980 mL
             TF:
   IVF:
                                                                  1,290 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  2,630 mL
                                                                    570 mL
   Urine:
                                                                  2,630 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -360 mL
                                                                   -499 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General: Awake, sitting in chair
   HEENT: Sclera anicteric, pale conjunctiva
   Neck: No JVD
   Pulm:  crackles 2/3 up lung fields b/L
   CV: Regular S1 S2 no m/r/g
   Abd: Soft nontender +bowel sounds
   Extrem: Warm no edema palpable distal pulses
   Labs / Radiology
   266 K/uL
   9.9 g/dL
   138 mg/dL
   2.0 mg/dL
   20 mEq/L
   3.5 mEq/L
   78 mg/dL
   112 mEq/L
   142 mEq/L
   28.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2112-5-26**]  06:00 PM
                             [**2112-5-26**]  07:44 PM
                             [**2112-5-27**]  05:38 AM
                             [**2112-5-27**]  11:04 AM
                             [**2112-5-27**]  02:47 PM
                             [**2112-5-27**]  03:01 PM
                             [**2112-5-28**]  05:45 AM
                             [**2112-5-29**]  04:06 AM
                             [**2112-5-30**]  04:35 AM
                             [**2112-5-31**]  05:00 AM
   WBC
   10.3
   8.9
   11.5
   11.1
   11.4
   Hct
   27.9
   26.9
   27.0
   27.0
   28.3
   30.3
   28.8
   Plt
   [**Telephone/Fax (3) 7610**]89
   266
   Cr
   2.7
   2.6
   2.2
   2.0
   2.0
   TCO2
   20
   21
   21
   Glucose
   181
   194
   126
   124
   138
   Other labs: PT / PTT / INR:15.0/40.7/1.3, Alk Phos / T Bili:/0.5,
   Differential-Neuts:89.5 %, Lymph:5.2 %, Mono:3.9 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.1 g/dL, LDH:382 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.0 mg/dL
   Microbiology: None
   Assessment and Plan
   This 79F with h/o DM, MGUS, and ILD with renal failure and progressive
   respiratory failure requiring intubation, secondary to PANCA/MPO
   positive vasculitis
   #. Hypoxemic respiratory failure:  Pulmonary Renal Syndrome consitent
   with Wegeners. The patient is currently extubated and doing well on
   nasal cannula.
   - continue methylprednisolone (pulse dose complete) at 30am/40pm
   - continue atovaquone PPX given long expected duration of steoids
   - f/u Rheum recs; continue cytoxan always with IVF
   - fluid overaloaded on exam, will diurese
   #. Acute on chronic renal failure:  Renal path showing crescentic
   glomerulonephritis, c/w PANCA/MPO + vasculitis
   - solumedrol 30am/40pm and cytoxan as above
   - follow urine output
   - renal recs
   #. Anemia:   Hematocrit stable post transfusion x 48hrs.  B12 and
   folate have been recently normal.  Cause is likely [**2-15**] ESRD.   Hapto
   not suggestive of hemolysis.
   - continue [**Hospital1 7**] PPI
   - Transfuse Hct<21
   #. MGUS:  Hematology determined. SPEP and UPEP not suggestive of
   myeloma. Will need f/u as outpt for further mgt.
   #. DM:  increased [**Last Name (LF) **], [**First Name3 (LF) **] continue as will be on steroids long
   term
   - Following fingersticks QACHS, insulin sliding scale goal <150
   #. CAD:  Wil restart home regimen once tolerating POs without nausea
   #. HTN: currently uncontrolled, had to decrease metoprolol [**2-15**]
   bradycardia.
   - continue metoprolol 12.5 mg [**Hospital1 **]
   - continue amlodipine 10mg daily
   - added hydralazine 40mg po q6
   #. Hypothyroid
   - continue home dose levothyroxine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2112-5-27**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: